US06884868B1
A mixture of methyl 4-(7-methoxy-n-heptyloxy)benzoate (1.5 g) and 1N-sodium hydroxide aqueous solution in ethanol (10 ml) and tetrahydrofuran (10 ml) was heated at 40-60° C. for 5 hours with stirring. The reaction mixture was concentrated under reduced pressure and water added to the residue and adjusted to pH 1 using hydrochloric acid. The precipitates were collected by filtration, washed with water and dried in vacuo to give 4-[7-methoxy-n-heptyloxy)benzoic acid (1.4 g) as a white solid.

reactant | methyl 4-(7-methoxy-n-heptyloxy)benzoate | 1.5 g | COCCCCCCCOC1=CC=C(C(=O)OC)C=C1 | C16H24O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[7-methoxy-n-heptyloxy)benzoic acid | 1.4 g | COCCCCCCCOC1=CC=C(C(=O)O)C=C1 | C15H22O4
